US04925849
A mixture of 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde (0.5 g) and hydroxylamine hydrochloride (0 17 g) in ethanol (5 ml) was refluxed for 1.5 hours and evaporated in vacuo. The residue was triturated with ethyl acetate and recrystallized from a mixture of ethanol and ethyl acetate to give 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde oxime hydrochloride (0.28 g).

reactant | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.5 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=O | C14H10N2O
reactant | hydroxylamine hydrochloride | 17 g | Cl.NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde oxime hydrochloride | 0.28 g | Cl.C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=NO | InChI=1S/C14H11N3O.ClH/c18-15-10-12-13-8-4-5-9-17(13)16-14(12)11-6-2-1-3-7-11;/h1-10,18H;1H
